US04837333
A stirred suspension containing [[4-(ethoxycarbonyl)phenyl]methyl]triphenylphosphonium bromide (11.8 g, 0.0234 mol) in dry tetrahydrofuran (25 ml) at 0° C. under a nitrogen atmosphere was treated with potassium t-butoxide (2.58 g, 0.023 mol). The mixture was allowed to warm up to room temperature and stirred for an additional 90 minutes. The resulting orange mixture was treated with a solution of 1-(1H-imidazol-1-yl)-3-[(4-methoxyphenyl)methoxy]-2-propanone (7.1 g, 0.0273 mol) in dry tetrahydrofuran (25 ml) and stirred for 2 hours. The solvent was evaporated off under reduced pressure and the residue was dissolved in ethyl acetate (300 ml) washed with water (3×150 ml) and extracted into hydrochloric acid (3×200 ml of 5M). The acid solution was basified (K2CO3) and extracted with ethyl acetate (3×250 ml). The extracts were combined, dried over sodium sulfate and the solvent was evaporated off under reduced pressure to yield a crude product. The crude product was purified by column chromatography (silica gel 10% hexane in chloroform). The less polar isomer, ethyl 4-[3-(1H-imidazol-1-yl)-2-[[(4-methoxyphenyl)methoxy]methyl]-1E-propenyl]benzoate was obtained as a colourless oil having the following structural characteristics:

reactant | [[4-(ethoxycarbonyl)phenyl]methyl]triphenylphosphonium bromide | 0.0234 mol, 11.8 g | [Br-].C(C)OC(=O)C1=CC=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 0.023 mol, 2.58 g | CC(C)([O-])C.[K+]
reactant | 1-(1H-imidazol-1-yl)-3-[(4-methoxyphenyl)methoxy]-2-propanone | 0.0273 mol, 7.1 g | N1(C=NC=C1)CC(COCC1=CC=C(C=C1)OC)=O | C14H16N2O3
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | ethyl 4-[3-(1H-imidazol-1-yl)-2-[[(4-methoxyphenyl)methoxy]methyl]-1E-propenyl]benzoate | N1(C=NC=C1)C\C(=C/C1=CC=C(C(=O)OCC)C=C1)\COCC1=CC=C(C=C1)OC | C24H26N2O4
